US05808062
4-Hydroxy-6-(2-naphthalenyl)-3-[(phenylmethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 2-acetyl naphthalene (1.97 g, 11.6 mmol), lithium bis(trimethylsilyl)amide (2.13 g, 12.76 mmol), chlorotrimethylsilane (1.61 mL, 12.76 mmol), THF (127 mL), and diethyl ester of [(phenylmethyl)thio]-propanedioic acid (2.90 g, 10.5 mmol). m.p. dec. 203° C.; 1H NMR (250 MHz, DMSO-d6) δ 4.04 (s, 2 H), 6.89 (s, 1 H), 7.23 (in, 5 H), 7.61 (m, 2 H), 7.84 (d, 2 H), 8.05 (m, 3 H), 8.43 (s, 1 H), 11.95 (bs, 1 H).

reactant | 2-acetyl naphthalene | 11.6 mmol, 1.97 g | C(C)(=O)C1=CC2=CC=CC=C2C=C1 | C12H10O
reactant | lithium bis(trimethylsilyl)amide | 12.76 mmol, 2.13 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 12.76 mmol, 1.61 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(phenylmethyl)thio]-propanedioic acid | 10.5 mmol, 2.90 g | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
solvent | THF | 127 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-6-(2-naphthalenyl)-3-[(phenylmethyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC2=CC=CC=C2C=C1)=O)SCC1=CC=CC=C1 | C22H16O3S
